### PR TITLE
feat(MagicFunction): cusp path and real decay helpers

### PR DESCRIPTION
**Pull request by cameronfreer**
## Summary

Helper lemmas for Proposition 4.4.6 (double zeros), extracted so the vertical-contour integrability proofs can build on a small continuity/decay layer.

## New files

`Integrability/CuspPath.lean`
- `continuousOn_φ₀''_cusp_path`: `t ↦ φ₀'' (-1 / (I * t))` is continuous on `(0, ∞)` via `φ₀''_holo.continuousOn.comp`

`Integrability/RealDecay.lean`
- `tendsto_exp_neg_atTop`, `tendsto_mul_exp_neg_atTop`, `tendsto_sq_mul_exp_neg_atTop`
- `integrableOn_exp_mul_Ici`, `integrableOn_mul_exp_neg_Ici`, `integrableOn_sq_mul_exp_neg_Ici`
- The polynomial-times-exponential integrability lemmas use `integrableOn_rpow_mul_exp_neg_mul_rpow`
- Shared BigO helper factored out to keep the main proofs short

## Modified files

`Integrability/ComplexIntegrands.lean`
- `φ₀_continuous : Continuous φ₀`
- minor docstring cleanup

`SpherePacking.lean`
- import the new helper modules

## Dependency stack

- #288 is the helper-layer PR
- #296 depends on #288
- #297 and #298 both depend on #296
- #229 depends on #297 and #298

### CODE REVIEW

File: SpherePacking/MagicFunction/CuspPath.lean [hunk 1]
```diff
@@ -0,0 +1,87 @@
...
+lemma φ₀_continuous : Continuous φ₀ := by
+  unfold φ₀
+  have hE₂ : Continuous E₂ := MDifferentiable.continuous E₂_holo'
+  have hE₄ : Continuous (fun z : UpperHalfPlane => E₄ z) := MDifferentiable.continuous E₄.holo'
+  have hE₆ : Continuous (fun z : UpperHalfPlane => E₆ z) := MDifferentiable.continuous E₆.holo'
+  have hΔ : Continuous (fun z : UpperHalfPlane => Δ z) := MDifferentiable.continuous Delta.holo'
+  have h24 : Continuous (fun z : UpperHalfPlane => E₂ z * E₄ z) := hE₂.mul hE₄
+  have h246 : Continuous (fun z : UpperHalfPlane => E₂ z * E₄ z - E₆ z) := h24.sub hE₆
+  have h_sq : Continuous (fun z : UpperHalfPlane => (E₂ z * E₄ z - E₆ z)^2) := h246.pow 2
+  exact Continuous.div h_sq hΔ (fun z => Δ_ne_zero z)
```
Comment (seewoo5) [inline SpherePacking/MagicFunction/CuspPath.lean]:
```suggestion
lemma φ₀_continuous : Continuous φ₀ := by
  unfold φ₀
  have hE₂ := MDifferentiable.continuous E₂_holo'
  have hE₄ := MDifferentiable.continuous E₄.holo'
  have hE₆ := MDifferentiable.continuous E₆.holo'
  have hΔ := MDifferentiable.continuous Delta.holo'
  fun_prop
```
I'm curious if this would work, since `Continuous` is registered to `fun_prop`?

Comment (cameronfreer) [reply SpherePacking/MagicFunction/CuspPath.lean]: Thanks -- I tried just now but it seemed like it didn't work because the continuity facts for E₂, E₄, E₆, Δ aren't registered with `@[fun_prop]` and also the division requires proving Δ ≠ 0 which `fun_prop` didn't handle automatically (though in the process I did golf a bit in 8180294703f9a569517487825b24e0a6a6ef3e67).

File: SpherePacking/MagicFunction/CuspPath.lean [hunk 2]
```diff
@@ -0,0 +1,84 @@
...
+  have hI : (I : ℂ) ≠ 0 := Complex.I_ne_zero
+  have ht' : (t : ℂ) ≠ 0 := ofReal_ne_zero.mpr ht
+  have hIt : (I : ℂ) * t ≠ 0 := mul_ne_zero hI ht'
+  field_simp [hIt, ht']
+  ring_nf
+  simp only [Complex.I_sq]
+
+/-- φ₀ : ℍ → ℂ is continuous.
+Follows from continuity of E₂, E₄, E₆, Δ (via their MDifferentiability) and Δ ≠ 0. -/
+lemma φ₀_continuous : Continuous φ₀ := by
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/CuspPath.lean]: Change to one-liner after #305 lands

File: SpherePacking/MagicFunction/CuspPath.lean [hunk 3]
```diff
@@ -0,0 +1,84 @@
...
+  simp only [φ₀'', hz, dite_true]
+
+/-- Key identity: -1/(I*t) = I/t for t ≠ 0 -/
+lemma neg_one_div_I_mul (t : ℝ) (ht : t ≠ 0) : (-1 : ℂ) / (I * t) = I / t := by
+  have hI : (I : ℂ) ≠ 0 := Complex.I_ne_zero
+  have ht' : (t : ℂ) ≠ 0 := ofReal_ne_zero.mpr ht
+  have hIt : (I : ℂ) * t ≠ 0 := mul_ne_zero hI ht'
+  field_simp [hIt, ht']
+  ring_nf
+  simp only [Complex.I_sq]
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/CuspPath.lean]: Can this be shortened/combined with `field_simp`?

File: SpherePacking/MagicFunction/CuspPath.lean [hunk 4]
```diff
@@ -0,0 +1,84 @@
...
+  let path : {s : ℝ // 0 < s} → UpperHalfPlane := fun s => ⟨-1 / (I * s), h_im_pos s s.2⟩
+  have h_path_cont : Continuous path := by
+    refine Continuous.subtype_mk ?_ _
+    apply Continuous.div continuous_const
+    · exact continuous_const.mul (continuous_ofReal.comp continuous_subtype_val)
+    · intro ⟨s, hs⟩
+      simp only [ne_eq, mul_eq_zero, I_ne_zero, ofReal_eq_zero, false_or]
+      exact ne_of_gt hs
+  have h_comp_cont : Continuous (φ₀ ∘ path) := φ₀_continuous.comp h_path_cont
+  -- Transfer to ContinuousOn via the homeomorphism
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/CuspPath.lean]: Remove

File: SpherePacking/MagicFunction/CuspPath.lean [hunk 5]
```diff
@@ -0,0 +1,84 @@
...
+- `φ₀_continuous`: φ₀ : ℍ → ℂ is continuous
+- `continuousOn_φ₀''_cusp_path`: t ↦ φ₀''(-1/(I*t)) is continuous on (0, ∞)
+-/
+
+open MeasureTheory Complex Real Set
+
+noncomputable section
+
+/-- Unfold φ₀'' to φ₀ when the imaginary part is positive. -/
+lemma φ₀''_eq (z : ℂ) (hz : 0 < z.im) : φ₀'' z = φ₀ ⟨z, hz⟩ := by
```
Comment (thefundamentaltheor3m) [inline SpherePacking/MagicFunction/CuspPath.lean]: I think this should go in `MagicFunction.a.Basic`

File: SpherePacking/MagicFunction/a/Integrability/ComplexIntegrands.lean [hunk 6]
```diff
@@ -18,16 +18,14 @@ public import Mathlib.Analysis.Complex.UpperHalfPlane.Manifold
...
 
-## Main Results:
-
-This file includes the following (families of) theorems:
-
-* [PROVED] `Φⱼ'_holo`: For j = 1…6, `Φⱼ'` is Complex-differentiable on the upper half-plane.
-* [PROVED] `Φⱼ'_contDiffOn_ℂ`: For j = 1…6, `Φⱼ'` is Complex-smooth on the upper half-plane.
-* [PROVED] `Φⱼ'_contDiffOn`: For j = 1…6, `Φⱼ'` is Real-smooth on the upper half-plane.
-* [PROVED] `φ₀''_holo`: `φ₀''` is Complex-differentiable on the upper half-plane.
-* [PROVED] `φ₀''_differentiable`: `φ₀''` is differentiable on `Set.univ ×ℂ Ioi 0`.
```
Comment (cameronfreer) [inline SpherePacking/MagicFunction/a/Integrability/ComplexIntegrands.lean:29]: Why did this summary line go away?

File: SpherePacking/MagicFunction/a/Integrability/CuspPath.lean [hunk 7]
```diff
@@ -0,0 +1,45 @@
...
+
+- `neg_one_div_I_mul`: Identity -1/(I*t) = I/t for t ≠ 0
+- `continuousOn_φ₀''_cusp_path`: t ↦ φ₀''(-1/(I*t)) is continuous on (0, ∞)
+-/
+
+open MeasureTheory Complex Real Set MagicFunction.a.ComplexIntegrands
+
+noncomputable section
+
+/-- Key identity: -1/(I*t) = I/t for t ≠ 0 -/
```
Comment (cameronfreer) [inline SpherePacking/MagicFunction/a/Integrability/CuspPath.lean]: See if this can be eliminated by using NormNumI (and pulling out -1/I where it's needed).

**Comment by cameronfreer** [comment]
@thefundamentaltheor3m I've cleaned up the couple issues from last week, and think this should be ready for review when you have a chance. Thanks!

**Review by thefundamentaltheor3m — APPROVED** [review]
